US09340538B2
Step D: (S)-benzyl 4-benzyl-2,2-dimethylmorpholine-3-carboxylate
(S)-benzyl 4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylate (163 g, 461 mmol) was reacted with a solution of borane in THF (1 mol/L, 692 mL) according to the procedure as described in Example 34, Step B to give the title compound as colorless oil (133 g, 85%). The compound was characterized by the following spectroscopic data:

reactant | (S)-benzyl 4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylate | 461 mmol, 163 g | C(C1=CC=CC=C1)N1[C@@H](C(OCC1=O)(C)C)C(=O)OCC1=CC=CC=C1 | C21H23NO4
reactant | borane | B | BH3
solvent | THF | 1 mol/L, 692 mL | C1CCOC1 | C4H8O
product | (S)-benzyl 4-benzyl-2,2-dimethylmorpholine-3-carboxylate | 133 g, 85% | C(C1=CC=CC=C1)N1[C@@H](C(OCC1)(C)C)C(=O)OCC1=CC=CC=C1 | C21H25NO3
